* FILE: MMI_OA21C.sp


* SPICE netlist for "MMI_OA21C" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_OA21C in0 in1 in2 out 
Minverter1._0 out N1 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)'
Minverter1._1 out N1 vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)'
M_2_1 N1 in0 net_1 gnd n W='1.24*1u' L=ln_min ad='arean(1.24,sdd)' 
+ as='arean(1.24,sdd)' pd='perin(1.24,sdd)' ps='perin(1.24,sdd)'
M_3_1 net_1 in1 gnd gnd n W='1.24*1u' L=ln_min ad='arean(1.24,sdd)' 
+ as='arean(1.24,sdd)' pd='perin(1.24,sdd)' ps='perin(1.24,sdd)'
M_4_1 net_1 in2 gnd gnd n W='1.24*1u' L=ln_min ad='arean(1.24,sdd)' 
+ as='arean(1.24,sdd)' pd='perin(1.24,sdd)' ps='perin(1.24,sdd)'
M_5_1 N1 in0 vdd vdd p W='1.24*1u' L=lp_min ad='areap(1.24,sdd)' 
+ as='areap(1.24,sdd)' pd='perip(1.24,sdd)' ps='perip(1.24,sdd)'
M_6_1 N1 in1 net_2 vdd p W='2.48*1u' L=lp_min ad='areap(2.48,sdd)' 
+ as='areap(2.48,sdd)' pd='perip(2.48,sdd)' ps='perip(2.48,sdd)'
M_7_1 net_2 in2 vdd vdd p W='2.48*1u' L=lp_min ad='areap(2.48,sdd)' 
+ as='areap(2.48,sdd)' pd='perip(2.48,sdd)' ps='perip(2.48,sdd)'
*.ENDS	$ MMI_OA21C

