* FILE: MMI_OR2C.sp


* SPICE netlist for "MMI_OR2C" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_OR2C in0 in1 out 
Minverter1._0 out N1 gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)'
Minverter1._1 out N1 vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)'
M_2_1 N1 in1 gnd gnd n W='0.62*1u' L=ln_min ad='arean(0.62,sdd)' 
+ as='arean(0.62,sdd)' pd='perin(0.62,sdd)' ps='perin(0.62,sdd)'
M_3_1 N1 in0 gnd gnd n W='0.62*1u' L=ln_min ad='arean(0.62,sdd)' 
+ as='arean(0.62,sdd)' pd='perin(0.62,sdd)' ps='perin(0.62,sdd)'
M_4_1 net_1 in1 vdd vdd p W='2.48*1u' L=lp_min ad='areap(2.48,sdd)' 
+ as='areap(2.48,sdd)' pd='perip(2.48,sdd)' ps='perip(2.48,sdd)'
M_5_1 N1 in0 net_1 vdd p W='2.48*1u' L=lp_min ad='areap(2.48,sdd)' 
+ as='areap(2.48,sdd)' pd='perip(2.48,sdd)' ps='perip(2.48,sdd)'
*.ENDS	$ MMI_OR2C

